US09085570B2
A mixture of lithium 4-(trifluoromethyl)benzenesulfinate (700 mg, 3.24 mmol, 1.72 equiv, 100%), methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate (500 mg, 1.89 mmol, 1.00 equiv) and potassium carbonate (0.35 g) in N,N-dimethylformamide (25 mL) was stirred overnight at 70° C. The reaction mixture was cooled to room temperature then quenched by the addition of 60 mL of water and ice. The solid was collected by filtration, washed with 2×20 mL of water and dried in a vacuum oven to yield 0.7 g (85%) of methyl 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate as a white solid. LC-MS: (ES, m/z): 481 [M+CH3CN+H]+, 440 [M+H]+, 271, 146, 105.

reactant | lithium 4-(trifluoromethyl)benzenesulfinate | 3.24 mmol, 700 mg, 1.72 equiv | FC(C1=CC=C(C=C1)S(=O)[O-])(F)F.[Li+]
reactant | methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate | 1.89 mmol, 500 mg, 1.00 equiv | ClCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C13H12ClNO3
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | methyl 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 0.7 g, 85% | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C20H16F3NO5S
